US07230023B2
According to a similar procedure to that described in Example 4-(6), 4-methoxybenzyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoate (690 mg, 1.54 mmol) was treated with trifluoroacetic acid to afford 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoic acid as a crude product. According to a similar procedure to that described in Example 4-(6), the above product was treated with oxalyl chloride and N,N-dimethylformamide to afford 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoyl chloride as a crude product. According to a similar procedure to that described in Example 1-(12), 4-[(1E,3E)-4-[trans-5-[[(1R,2R)-2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2,4-triazol-1-yl)propyl]thio]-1,3-dioxan-2-yl]-1,3-butadienyl]-3-fluorobenzonitrile (670 mg, 1.23 mmol) described in Reference example 1 was treated with sodium hydride and then reacted with the crude 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoyl chloride (the whole amount) obtained above to afford, after purification by column chromatography, the title compound (448 mg, 43% yield) as a pale yellow, candy-like material.

reactant | 4-methoxybenzyl 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoate | 1.54 mmol, 690 mg | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)OCC2=CC=C(C=C2)OC)C=C(C=C1)C | C23H27O7P
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[[bis(allyloxy)phosphoryl]oxymethyl]-5-methylbenzoic acid | C(C=C)OP(=O)(OCC=C)OCC1=C(C(=O)O)C=C(C=C1)C | C15H19O6P
